US05250527
Phosphoryl chloride (19 ml) in dichloromethane (50 ml) was added dropwise to a stirred solution of 2-methyl-3-fluoro-4-nitropyridine-N-oxide (12 g) in dichloromethane (50 ml). The reaction mixture was heated under reflux for a total of 8 hours. After cooling and pouring onto ice, the mixture was basified (NaOH) to pH 9 and extracted with dichloromethane. After drying (K2CO3) and removal of solvent, the crude product was purified by column chromatography (silica gel; 1% MeOH/CHCl3) to give 2-methyl-3-fluoro-4-chloro-pyridine-N-oxide (6.78 g) m.p. 63°-65°.

reactant | Phosphoryl chloride | 19 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-methyl-3-fluoro-4-nitropyridine-N-oxide | 12 g | CC1=[N+](C=CC(=C1F)[N+](=O)[O-])[O-] | C6H5FN2O3
reactant | NaOH | [OH-].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-methyl-3-fluoro-4-chloro-pyridine-N-oxide | 6.78 g | CC1=[N+](C=CC(=C1F)Cl)[O-] | C6H5ClFNO
